US06964974B2
A solution of 5.46 g (143.8 mmol) of LAH in 600 ml THF was cooled (−50° C.) and treated during 25 min with a solution of 35.6 g (130.7 mmol) of 4-(Methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester in 600 ml THF. The reaction was warmed up to RT for 3.5 h, cooled (−78° C.) and hydrolyzed with a suspension of 35 g MgSO4.7H2O, 35 g silicagel in 130 ml aqueous 10% KHSO4. The cooling bath was removed, THF was added, the mixture was stirred for 30 min and filtered. After evaporation, the residue was dissolved in CH2Cl2, dried (Na2SO4) and evaporated to give 30.1 g (quantitative) of 4-Formyl-piperidine-1-carboxylic acid tert-butyl ester, MS: 213 (M).

reactant | LAH | 143.8 mmol, 5.46 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(Methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 130.7 mmol, 35.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(C)OC)=O | C13H24N2O4
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 4-Formyl-piperidine-1-carboxylic acid tert-butyl ester | 30.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
